US05021413
4-(5-methyl-3-oxoindan-1-carbonyl)-3-(pyrrolidin-1-ylmethyl)morpholine hydrochloride
The procedure described in Example 24 was repeated, but using a 0.89 g of 3-(pyrrolidin-1-ylmethyl)morpholine, 2.2 ml of triethylamine and 0.83 g of 5-methyl-3-oxoindan-1-carbonyl chloride, to afford 0.23 g of the title compound, melting at 225°-230° C.

reactant | 3-(pyrrolidin-1-ylmethyl)morpholine | 0.89 g | N1(CCCC1)CC1NCCOC1 | C9H18N2O
reactant | 5-methyl-3-oxoindan-1-carbonyl chloride | 0.83 g | CC=1C=C2C(CC(C2=CC1)C(=O)Cl)=O | C11H9ClO2
solvent | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
product | 4-(5-methyl-3-oxoindan-1-carbonyl)-3-(pyrrolidin-1-ylmethyl)morpholine hydrochloride | 0.23 g | Cl.CC=1C=C2C(CC(C2=CC1)C(=O)N1C(COCC1)CN1CCCC1)=O | InChI=1S/C20H26N2O3.ClH/c1-14-4-5-16-17(10-14)19(23)11-18(16)20(24)22-8-9-25-13-15(22)12-21-6-2-3-7-21;/h4-5,10,15,18H,2-3,6-9,11-13H2,1H3;1H
